US08871782B2
Cesium carbonate (1.62 g, 5.00 mmol) was added to a solution of 2-bromo-1-morpholin-4-yl-ethanone (414 mg, 1.99 mmol), 4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol (500 mg, 1.66 mmol), and anhydrous DMF (20 mL). The reaction mixture was heated at 75° C. overnight, allowed to cool, and poured into deionized water (300 mL). The resulting mixture was stirred for 30 minutes and then extracted with chloroform (3×100 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was purified by chromatography on a HORIZON HPFC system (silica cartridge, eluting with a gradient of 0-35% methanol/dichloromethane (10:90) in dichloromethane). The resulting solid was recrystallized from acetonitrile to yield 333 mg of 2-(ethoxymethyl)-8-(2-morpholin-4-yl-2-oxoethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid, mp 196-197° C. Anal. calcd for C22H29N5O4: C, 61.81; H, 6.84; N, 16.38. Found: C, 61.72; H, 6.86; N, 16.62.

reactant | Cesium carbonate | 5.00 mmol, 1.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-morpholin-4-yl-ethanone | 1.99 mmol, 414 mg | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | 4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | 1.66 mmol, 500 mg | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)O | C16H20N4O2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 2-(ethoxymethyl)-8-(2-morpholin-4-yl-2-oxoethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 333 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC(=CC23)OCC(=O)N2CCOCC2)N)N1)CCC | C22H29N5O4
